US08378104B2
trans-3-[4-(7-amino-2-benzo[d]isothiazol-7-yl-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-cyclohexanol
The title compound was prepared from 2-(1,2-benzothiazol-7-yl)-4-iodofuro[2,3-c]pyridin-7-amine and 2-[3-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole by a procedure analogous to Example 68 followed by silyl ether deprotection by a procedure analogous to Example 229. 1H NMR (400 MHz, CD3OD): δ 9.48 (s, 1H), 9.09 (s, 1H), 8.84 (d, J=5.9 Hz, 1H), 8.71 (d, J=5.9 Hz, 1H), 8.32 (s, 1H), 8.04 (s, 1H), 7.90 (s, 1H), 7.87 (s, 1H), 4.73 (m, 1H), 3.30 (m, 1H), 2.20 (m, 2H), 2.03 (m, 1H), 1.92 (m, 1H), 1.84 (m, 1H), 1.76 (m, 1H), 1.63 (m, 1H), 1.40 (m, 1H); MS (ESI): 432.60 [M+H]+; HPLC tR=0.60 min (HPLC: Analytical—2 min)

reactant | 2-(1,2-benzothiazol-7-yl)-4-iodofuro[2,3-c]pyridin-7-amine | S1N=CC2=C1C(=CC=C2)C2=CC=1C(=C(N=CC1I)N)O2 | C14H8IN3OS
reactant | 2-[3-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | C(C)(C)(C)[Si](OC1CC(CCC1)N1NC=C(C1)B1OC(C(O1)(C)C)(C)C)(C)C | C21H41BN2O3Si
reactant | silyl ether | [SiH3]O[SiH3] | H6OSi2
product | trans-3-[4-(7-amino-2-benzo[d]isothiazol-7-yl-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-cyclohexanol | NC=1N=CC(=C2C1OC(=C2)C2=CC=CC=1C=NSC12)C=1C=NN(C1)[C@@H]1C[C@H](CCC1)O | C23H21N5O2S
